US07897619B2
(S)-3-(tert-Butoxycarbonylamino)-4-(4-(trifluoromethyl)phenyl)butyl methanesulfonate:
(S)-tert-Butyl 4-hydroxy-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate was dissolved in 60 mL DCM and cooled to 0° C. MsCl (773 mL, 10 mmol) and Et3N (1.67 mL, 12 mmol) were added and the reaction was stirred for 1.5 hours at 0° C. NaCl (saturated, aqueous) was added, and the mixture was extracted with DCM (3×100 mL), dried over MgSO4 and evaporated. The title compound was obtained as an off-white solid and used without further purification in the next step. LCMS (API-ES) m/z (%): 411.1 (100%, M++H).

reactant | (S)-tert-Butyl 4-hydroxy-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | OCC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H22F3NO3
reactant | MsCl | 10 mmol, 773 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 12 mmol, 1.67 mL | CCN(CC)CC | C6H15N
reactant | NaCl | [Na+].[Cl-]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(tert-Butoxycarbonylamino)-4-(4-(trifluoromethyl)phenyl)butyl methanesulfonate | CS(=O)(=O)OCC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(=O)OC(C)(C)C | C17H24F3NO5S
